US06992087B2
Preparation of cis-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol
Following the procedure for the preparation of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate but substituting cis-(+/−)-4-aminotetrahydrofuran-3-ol and making non-critical variations provided the title compound as a light yellow amorphous solid. IR (diffuse reflectance) 3399, 3259, 3223, 3218, 3212, 2969, 2867, 2847, 1582, 1546, 1493, 1465, 1160, 1066, 920 cm−1; MS (EI) m/z 237 (M+); HRMS (FAB) calcd for C12H19N3O2+H1 238.1555, found 238.1558.

reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C20H26N4O3
reactant | cis-(+/−)-4-aminotetrahydrofuran-3-ol | N[C@@H]1[C@@H](COC1)O | C4H9NO2
product | cis-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1[C@@H](COC1)O | C12H19N3O2
